US05486466
To a solution of 1.30 g of methyl (4R, 7S)-7-amino-12,14-bis(tert-butyldimethylsilyloxy)-1,3,4,5,6,7,8,10-octahydro-6,10-dioxo-9,2,5-benzoxathiaazacyclododecine-4 -carboxylate and 0.23 g of triethylamine in 50 ml of methylene chloride, was added at 0° C. within 2 minutes a solution of 0.25 g of chloro-acetyl chloride in 3 ml of methylene chloride. The mixture was stirred at 0° C. for 30 minutes, then diluted with methylene chloride and washed successively with 0.03N hydrochloric acid and water. The organic layer was dried over sodium sulfate and evaporated in vacuo. The residue was chromatographed on silica gel using ethyl acetate/hexane (1:1, v/v) as eluent to yield 1.20 g of methyl (4R, 7S)-12,14-bis (tert-butyldimethylsilyloxy)-7-(2-chloroacetamido)-1,3,4,5,6,7,8,10-octahydro-6,10-dioxo-9,2,5-benzoxathiaazacyclododecine-4-carboxylate as a white solid. A sample of 287 mg of this material was treated with ammonium fluoride in methanol in an analogous manner to the procedure described in Example 13 to yield, after crystallization from ethyl acetate, 115 mg of methyl (4R, 7S)-7-(2chloroacetamido)-1,3,4,5,6,7,8,10-octahydro-12,14-dihydroxy6,10-dioxo-9,2,5-benzoxathiaazacyclododecine-4 -carboxylate as a white solid, m.p. 182° C. (dec.).

reactant | methyl (4R, 7S)-7-amino-12,14-bis(tert-butyldimethylsilyloxy)-1,3,4,5,6,7,8,10-octahydro-6,10-dioxo-9,2,5-benzoxathiaazacyclododecine-4 -carboxylate | 1.30 g | N[C@@H]1C(N[C@@H](CSCC2=C(C(OC1)=O)C=C(C=C2O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C)C(=O)OC)=O | C27H46N2O7SSi2
reactant | triethylamine | 0.23 g | C(C)N(CC)CC | C6H15N
reactant | chloro-acetyl chloride | 0.25 g | ClCC(=O)Cl | C2H2Cl2O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | methyl (4R, 7S)-12,14-bis (tert-butyldimethylsilyloxy)-7-(2-chloroacetamido)-1,3,4,5,6,7,8,10-octahydro-6,10-dioxo-9,2,5-benzoxathiaazacyclododecine-4-carboxylate | 1.20 g | [Si](C)(C)(C(C)(C)C)OC=1C=C(C2=C(C(OC[C@@H](C(N[C@@H](CSC2)C(=O)OC)=O)NC(CCl)=O)=O)C1)O[Si](C)(C)C(C)(C)C | C29H47ClN2O8SSi2
